US07550478B2
7-amino-3-chloro-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one
7-bromo-3-chloro-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (1.05 g, 3.30 mmol), Pd2(dba)3 (8 mg, 0.00825 mmol), BINAP (15 mg, 0.0248 mmol) and benzophenone imine (0.662 mL, 3.95 mmol) were combined in a dry flask. The flask was charged with 40 mL of dry toluene, followed by sodium tert-butoxide (0.444 g, 4.62 mmol). Argon was bubbled through the solution for 5 minutes. The reaction solution was heated to 110° C. and stirred under argon. After 2.5 hours, the reaction was concentrated, 20 mL of THF and 1 mL of 6N hydrochloric acid were added and the resulting solution was stirred. After 2 hours, the solution was poured into 300 mL of ethyl acetate, 100 mL of saturated sodium bicarbonate and 200 μL of water. The organic layers were separated, dried with magnesium sulfate, filtered, concentrated, and purified by flash column chromatography (0-30% ethyl acetate/hexanes gradient) to afford the title compound. 1H NMR (600 MHz, CDCl3) δ 8.77 (d, 1H); 8.55 (d, 1H); 7.58 (d, 1H); 7.44 (d, 1H); 7.18 (d, 1H); 7.14 (d, 1H); 7.01 (dd, 1H); 4.15 (s, 2H). LRMS (APCI) calculated for C14H10ClN2O [M+H]+, 257.0; found 257.1. Method B: 3-chloro-7-[(2,4-dimethoxybenzyl)amino]-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (1.1 g, 2.7 mmol) was dissolved in 8 mL methanol and 30 mL dichloromethane. Then 10 mL of trifluoroacetic acid was added and the solution was stirred at ambient temperature. After 1 hour, reaction was concentrated, dissolved in 500 mL of ethyl acetate and washed with 200 mL saturated sodium bicarbonate. The organic layer was separated, dried with magnesium sulfate, filtered, and purified by flash column chromatography (0-10% methanol/dichloromethane gradient) and reverse phase HPLC (20-100% acetonitrile/water gradient, 0.1% trifluoroacetic acid modifier) to afford title compound. LRMS (APCI) calculated for C14H10ClN2O [M+H]+, 257.0; found 257.1.

reactant | 7-bromo-3-chloro-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 3.30 mmol, 1.05 g | BrC=1C=CC2=C(C(C=3C(=NC=C(C3)Cl)C=C2)=O)C1 | C14H7BrClNO
reactant | BINAP | 0.0248 mmol, 15 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | benzophenone imine | 3.95 mmol, 0.662 mL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | sodium tert-butoxide | 4.62 mmol, 0.444 g | CC(C)([O-])C.[Na+]
catalyst | Pd2(dba)3 | 0.00825 mmol, 8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 7-amino-3-chloro-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | NC=1C=CC2=C(C(C=3C(=NC=C(C3)Cl)C=C2)=O)C1 | C14H9ClN2O
